US06900216B2
A mixture of 2-acetylbenzo[b]thiophen-4-yl benzoate (0.13 g), potassium carbonate (0.18 g), tetrahydrofuran (25 ml) and 5M aqueous sodium hydroxide solution (10 ml) was heated under reflux for 1 hour, then cooled to ambient temperature and concentrated in vacuo. The aqueous residue was acidified by the addition of 5M hydrochloric acid (20 ml), then the product was extracted into dichloromethane (2×25 ml). The combined extracts were washed with water (20 ml), 10% aqueous sodium hydrogencarbonate solution (3×20 ml) and water (2×20 ml), then dried (MgSO4) and the solvent was removed in vacuo to give 1-(5-hydroxybenzo[b]thiophen-2-yl]ethan-1-one (0.07 g) as a yellow solid which was used without further purification.

reactant | 2-acetylbenzo[b]thiophen-4-yl benzoate | 0.13 g | C(C1=CC=CC=C1)(=O)OC1=CC=CC=2SC(=CC21)C(C)=O | C17H12O3S
reactant | potassium carbonate | 0.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 5M, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(5-hydroxybenzo[b]thiophen-2-yl]ethan-1-one | 0.07 g | OC1=CC2=C(SC(=C2)C(C)=O)C=C1 | C10H8O2S
